US06333324B1
A solution of ethyl pyrazine-2-carboxylate (60 g) in EtOH (500 ml) was subjected to catalytic reduction using palladium hydroxide on carbon (5.0 g), in hydrogen at 3 atm for 4 hours. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to give 62.8 g of ethyl 1,4,5,6-tetrahydropyrazine-2-carboxylate as an oil.

reactant | ethyl pyrazine-2-carboxylate | 60 g | N1=C(C=NC=C1)C(=O)OCC | C7H8N2O2
solvent | EtOH | 500 ml | CCO | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 5.0 g | [OH-].[OH-].[Pd+2]
product | ethyl 1,4,5,6-tetrahydropyrazine-2-carboxylate | 62.8 g | N1C(=CNCC1)C(=O)OCC | C7H12N2O2
